US08258144B2
A mixture of (S)-1-(2-chloro-7-tosyl-7H-pyrrolo[2,3-d]pyrimidin-4-yl)pyrrolidin-3-ol (201 mg, 0.512 mmol), 1-(4-(4-aminophenyl)piperazin-1-yl)ethanone (160 mg, 0.730 mmol) and trimethylsilyl chloride (0.200 mL, 1.58 mmol) in n-BuOH (5 mL) was stirred at 120° C. for 40 h. n-BuOH was removed in vacuo. The residue was purified by HPLC to give (S)-1-(4-(4-(4-(3-hydroxypyrrolidin-1-yl)-7-tosyl-7H-pyrrolo[2,3-d]pyrimidin-2-ylamino)phenyl)piperazin-1-yl)ethanone (80 mg). MS 576.5 (M+H)

reactant | (S)-1-(2-chloro-7-tosyl-7H-pyrrolo[2,3-d]pyrimidin-4-yl)pyrrolidin-3-ol | 0.512 mmol, 201 mg | ClC=1N=C(C2=C(N1)N(C=C2)S(=O)(=O)C2=CC=C(C)C=C2)N2C[C@H](CC2)O | C17H17ClN4O3S
reactant | 1-(4-(4-aminophenyl)piperazin-1-yl)ethanone | 0.730 mmol, 160 mg | NC1=CC=C(C=C1)N1CCN(CC1)C(C)=O | C12H17N3O
reactant | trimethylsilyl chloride | 1.58 mmol, 0.200 mL | C[Si](C)(C)Cl | C3H9ClSi
solvent | n-BuOH | 5 mL | CCCCO | C4H10O
product | (S)-1-(4-(4-(4-(3-hydroxypyrrolidin-1-yl)-7-tosyl-7H-pyrrolo[2,3-d]pyrimidin-2-ylamino)phenyl)piperazin-1-yl)ethanone | 80 mg | O[C@@H]1CN(CC1)C=1C2=C(N=C(N1)NC1=CC=C(C=C1)N1CCN(CC1)C(C)=O)N(C=C2)S(=O)(=O)C2=CC=C(C)C=C2 | C29H33N7O4S
